US05459152
Step 2. Preparation of 3-(Pyridin-3-yl)-7-[1-carboxymethyl-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole
The desired compound was prepared according to the method of Example 49, step 2except substituting 3-(pyridin-3-yl)-7-[1-carboethoxymethyl-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole, prepared in step 1, for 3-(Pyridin-3-yl)-7-[1-(2-carbomethoxyethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-thiazole, m.p. 240°-249° C. 1H NMR (DMSO-d6, 300 MHz) δ4.45 (d, 1H, J=1.5 Hz), 4.65 (dd, 1H, J=1.5, 0.3 Hz), 4.84 (s, 2H), 6.7 (d, 1H, J=0.3 Hz), 6.78 (s, 1H), 6.87 (d, 1H, J=0.3 Hz), 7.3 (t, 2H, J=0.9, 1.5 Hz), 7.4-7.5 (m, 2H), 7.6-7.8 (m, 4H), 8.25-8.33 (m, 2H), 8.5-8.6 (m, 2H), MS (DCI/NH3) m/e 498 (M+H)+.

reactant | 3-(pyridin-3-yl)-7-[1-carboethoxymethyl-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CC(=O)OCC | C30H24FN3O3S
reactant | 1,2-thiazole | S1N=CC=C1 | C3H3NS
reactant | NH3 | N | H3N
product | 3-(Pyridin-3-yl)-7-[1-carboxymethyl-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CC(=O)O | C28H20FN3O3S
